US09340573B2
To a solution of ((S)-1-{(S)-1-[(S)-2-(benzoylamino-methyl)-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl]-2-methyl-propylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester (30 mg, 0.056 mmol) in dioxane (0.5 mL) was added dropwise 4 M HCl in dioxane (0.3 mL) at 0° C. The reaction mixture was stirred for 2 h at rt and then the solvent removed in vacuo. Trituration of the residue with hexane gave N—{(S)-1-[(S)-3-Methyl-2-((S)-2-methylamino-propionylamino)-butyryl]-2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-2-ylmethyl}-benzamide, hydrochloride as an off white solid (25 mg), m/z=438 (M+H).

reactant | ((S)-1-{(S)-1-[(S)-2-(benzoylamino-methyl)-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl]-2-methyl-propylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester | 0.056 mmol, 30 mg | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@@H](C(C)C)C(=O)N1[C@@H](CC=2C1=NC=CC2)CNC(C2=CC=CC=C2)=O)=O)=O | C29H39N5O5
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.3 mL | O1CCOCC1 | C4H8O2
product | N—{(S)-1-[(S)-3-Methyl-2-((S)-2-methylamino-propionylamino)-butyryl]-2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-2-ylmethyl}-benzamide, hydrochloride | Cl.CC([C@@H](C(=O)N1[C@@H](CC=2C1=NC=CC2)CNC(C2=CC=CC=C2)=O)NC([C@H](C)NC)=O)C | InChI=1S/C24H31N5O3.ClH/c1-15(2)20(28-22(30)16(3)25-4)24(32)29-19(13-18-11-8-12-26-21(18)29)14-27-23(31)17-9-6-5-7-10-17;/h5-12,15-16,19-20,25H,13-14H2,1-4H3,(H,27,31)(H,28,30);1H/t16-,19-,20-;/m0./s1
